US05866560
17.8 g of lithium bromide and 92.83 g of copper(II) bromide are added to a solution of 82.3 g of 7α-(5-acetoxypentyl)-estr-4-ene-3,17-dione in 936 ml of acetonitrile at a bath temperature of 80° C. After 10 minutes at a bath temperature of 80° C., the reaction solution is cooled, extracted three times with ethyl acetate, washed with water and sodium bicarbonate solution and dried. The residue that is obtained after the concentration by evaporation is chromatographed on silica gel, and 60.4 g of 7α-(5-acetoxypentyl)-3-hydroxy-estra-1,3,5(10)-trien-17-one is obtained as oil.

reactant | lithium bromide | 17.8 g | [Br-].[Li+]
reactant | 7α-(5-acetoxypentyl)-estr-4-ene-3,17-dione | 82.3 g | C(C)(=O)OCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@H]2CCC(C=C2C1)=O)=O | C25H36O4
solvent | acetonitrile | 936 ml | C(C)#N | C2H3N
catalyst | copper(II) bromide | 92.83 g | [Cu](Br)Br
product | 7α-(5-acetoxypentyl)-3-hydroxy-estra-1,3,5(10)-trien-17-one | 60.4 g | C(C)(=O)OCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2C=2C=CC(=CC2C1)O)=O | C25H34O4
